US05935972
5-(5-Methyl-tetrazol-1-yl)-benzofuran-7-carbaldehyde
[5-(5-Methyl-tetrazol-1-yl)-benzofuran-7-yl]-methanol (124 mg,) and manganese (IV) oxide (140 mg) in 1,4-dioxan (5 ml) was heated at reflux for 18 h. A further portion of manganese (IV) oxide (210 mg) was added and heating continued for 2 h. The reaction mixture was filtered through a plug of Hyflo, the pad was washed with chloroform (20 ml) and the filtrate was evaporated in vacuo to give the title compound as a white powder (77 mg).

reactant | [5-(5-Methyl-tetrazol-1-yl)-benzofuran-7-yl]-methanol | 124 mg | CC1=NN=NN1C=1C=C(C2=C(C=CO2)C1)CO | C11H10N4O2
solvent | 1,4-dioxan | 5 ml | O1CCOCC1 | C4H8O2
catalyst | manganese (IV) oxide | 140 mg | [O-2].[Mn+4].[O-2]
catalyst | manganese (IV) oxide | 210 mg | [O-2].[Mn+4].[O-2]
product | 5-(5-Methyl-tetrazol-1-yl)-benzofuran-7-carbaldehyde | 77 mg | CC1=NN=NN1C=1C=C(C2=C(C=CO2)C1)C=O | C11H8N4O2
